US04920120
6,8-Difluoro-1-(2,4-difluorophenyl)-1,4-dihydro-5-methyl-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid
A solution of 0.43 g (1.08 mmol) of ethyl 6,7,8-trifluoro-1-(2,4-difluorophenyl)-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid, 0.37 g (4.30 mmol) of anhydrous piperazine, and 20 ml of acetonitrile was refluxed overnight, cooled to room temperature, and concentrated. The residue was taken up in 10 ml of 6N hydrochloric acid and refluxed for two hours. The mixture was cooled and the solids were filtered. The crude product was suspended in water which was made basic (pH 12), filtered through a fiberglass pad, and neutralized (pH 6.5). The solids were filtered and washed with water and ether to give 0.37 g of the title compound, mp 283°-284° C.

reactant | ethyl 6,7,8-trifluoro-1-(2,4-difluorophenyl)-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 1.08 mmol, 0.43 g | C(C)C=1N(C2=C(C(=C(C(=C2C(C1C(=O)O)=O)C)F)F)F)C1=C(C=C(C=C1)F)F | C19H12F5NO3
reactant | piperazine | 4.30 mmol, 0.37 g | N1CCNCC1 | C4H10N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 6,8-Difluoro-1-(2,4-difluorophenyl)-1,4-dihydro-5-methyl-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 0.37 g | FC=1C(=C2C(C(=CN(C2=C(C1N1CCNCC1)F)C1=C(C=C(C=C1)F)F)C(=O)O)=O)C | C21H17F4N3O3
